US08076486B2
(2-Fluoro-4-iodo-phenyl)-{4-[5-(2-piperidin-1-yl-ethylamino)-[1,3,4]oxadiazol-2-yl]-pyridin-3-yl}-amine
To a solution of 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide (300 mg; 0.81 mmol; 1 eq) in DCM (5 mL), 1-(2-Isothiocyanato-ethyl)-piperidine (192 mg; 1.13 mmol; 1.4 eq) was added. The reaction mixture was refluxed for 4 hrs under argon. A yellow solid precipitated out and filtered to afford an intermediated that was suspended in ethanol (5 mL). Iodomethane (148 mg; 1.05 mmol; 1.3 eq) was added to the reaction mixture and stirred overnight at RT, then heated to 80° C. and stirred for another 2 hr. The mixture was filtered to give a yellow solid product 40 mg. LC/MS (Method A) [3.89 min; 509(M+1)]

reactant | 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide | 0.81 mmol, 300 mg, 1 eq | FC1=C(C=CC(=C1)I)NC1=C(C(=O)NN)C=CN=C1 | C12H10FIN4O
reactant | 1-(2-Isothiocyanato-ethyl)-piperidine | 1.13 mmol, 192 mg, 1.4 eq | N(=C=S)CCN1CCCCC1 | C8H14N2S
reactant | Iodomethane | 1.05 mmol, 148 mg, 1.3 eq | IC | CH3I
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (2-Fluoro-4-iodo-phenyl)-{4-[5-(2-piperidin-1-yl-ethylamino)-[1,3,4]oxadiazol-2-yl]-pyridin-3-yl}-amine | 40 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C=1OC(=NN1)NCCN1CCCCC1 | C20H22FIN6O
